US04079181
To a stirred solution of p-nitrobenzyl α-[3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-hydroxyethylidene)acetate (500 mg) in tetrahydrofuran (20 ml) are added dropwise methyl chloroformate (200 mg) and triethylamine (216 mg) under ice cooling. After 1 hour, the reaction mixture is poured into ice water, and is extracted with ethyl acetate. The extract solution is washed with water, dried, and evaporated to give p-nitrobenzyl α-[3-penoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-methoxycarbonyloxyethylidene)acetate (546 mg). Foam. Yield: 97%.

reactant | p-nitrobenzyl α-[3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-hydroxyethylidene)acetate | 500 mg | O(C1=CC=CC=C1)CC1=NC2C(N(C2S1)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)O)=O | C22H19N3O7S
reactant | methyl chloroformate | 200 mg | ClC(=O)OC | C2H3ClO2
reactant | triethylamine | 216 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | p-nitrobenzyl α-[3-penoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-methoxycarbonyloxyethylidene)acetate | 546 mg, Yield: 97% | O(C1=CC=CC=C1)CC1=NC2C(N(C2S1)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)OC(=O)OC)=O | C24H21N3O9S
